US07378418B2
Preparation of 7-(4-chlorophenyl)-8-(pyridin-4-yl)-2-((5-(trifluoromethyl)pyridin-2-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
A solution of 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (32.4 mg, 0.1 mmol), prepared as described in Example 244, K2CO3 (56 mg, 0.4 mmol), and 2-chloromethyl-5-trifluoromethylpyridine hydrochloride (37 mg, 0.4 mmol) in DMF (0.4 mL) was heated at 65° C. for 2 h. Using a similar procedure as described in Example 247, the crude product was obtained. The crude product was purified by reverse phase HPLC to give the title compound, 7-(4-chlorophenyl)-8-(pyridin-4-yl)-2-((5-(trifluoromethyl)pyridin-2-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (27 mg) as a yellow solid. HPLC RT: 2.78 min; M+H=483; 1H NMR (CDCl3): δ 8.82 (s, 1H), 8.62 (m, 2H), 8.24 (s, 1H), 7.91 (m, 1H), 7.38-7.10 (m, 7H), 5.45 (2H).

reactant | 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.1 mmol, 32.4 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=NC=C2 | C16H10ClN5O
reactant | K2CO3 | 0.4 mmol, 56 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloromethyl-5-trifluoromethylpyridine hydrochloride | 0.4 mmol, 37 mg | Cl.ClCC1=NC=C(C=C1)C(F)(F)F
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
product | 7-(4-chlorophenyl)-8-(pyridin-4-yl)-2-((5-(trifluoromethyl)pyridin-2-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 27 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)CC2=NC=C(C=C2)C(F)(F)F)=O)C2=CC=NC=C2 | C23H14ClF3N6O
